US04041044
When in Example 13, the 2'-hydroxy-5'-methyl-2-nitroazobenzene was replaced by an equivalent amount of 2'-hydroxy-5'-tert-butyl-2-nitroazobenzene, the reduction reaction went rapidly to yield the product 2-(2-hydroxy-5-tert-butylphenyl)-2H-benzotriazole.

reactant | 2'-hydroxy-5'-methyl-2-nitroazobenzene | OC1=C(C=C(C=C1)C)N=NC1=C(C=CC=C1)[N+](=O)[O-] | C13H11N3O3
reactant | 2'-hydroxy-5'-tert-butyl-2-nitroazobenzene | OC1=C(C=C(C=C1)C(C)(C)C)N=NC1=C(C=CC=C1)[N+](=O)[O-] | C16H17N3O3
product | 2-(2-hydroxy-5-tert-butylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1)C(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C16H17N3O
